US07473793B2
(2) Synthesis of 2,2′-bis{diphenylphosphinyl}benzophenone
Into 5 ml of dimethylsulfoxide were dissolved 191.3 mg (0.4 mmol) of 2,2′-bis(trifluoromethanesulfonyloxy)benzophenone, 9.0 mg (0.04 mmol) of palladium acetate, 17.0 mg (0.04 mmol) of 1,4-bis(diphenylphosphino)butane, and 310 mg (1.2 mmol) of diphenylphosphine oxide, and further thereto was added 191.3 mg (0.4 mmol) of N,N-diisopropylethylamine. The resultant solution was stirred at 100° C. for 18 hours. The reaction mixture was cooled to room temperature, and 10 ml of methylene chloride was added thereto. This solution was washed with 1 N hydrochloric acid, water and brine in sequence, and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and then the resultant was purified by column chromatography on silica gel (ethyl acetate-methylene chloride:methanol=10:1 to give 252 mg (yield: 90%) of the title compound in the form of a brownish-red solid.

reactant | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
reactant | 2,2′-bis(trifluoromethanesulfonyloxy)benzophenone | 0.4 mmol, 191.3 mg | FC(S(=O)(=O)OC1=C(C(=O)C2=C(C=CC=C2)OS(=O)(=O)C(F)(F)F)C=CC=C1)(F)F | C15H8F6O7S2
reactant | diphenylphosphine oxide | 1.2 mmol, 310 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)=O | C12H11OP
reactant | N,N-diisopropylethylamine | 0.4 mmol, 191.3 mg | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | palladium acetate | 0.04 mmol, 9.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,4-bis(diphenylphosphino)butane | 0.04 mmol, 17.0 mg | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
solvent | methanol | CO | CH4O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2,2′-bis{diphenylphosphinyl}benzophenone | 252 mg, yield: 90% | C1(=CC=CC=C1)P(=O)(C1=C(C(=O)C2=C(C=CC=C2)P(=O)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)C1=CC=CC=C1 | C37H28O3P2
